US05162315
Preparation of N-[2-(2-hydroxyethyl)aminoethyl]-N-(2-hydroxyethyl) dodecanamide
5.3 g of N,N'-Bis(2-hydroxyethyl)ethylenediamine and 3.0 g of dodecanoyl chloride were reacted together following the procedure under Example 3. This provided 3.3 g of pure product, m.p. 94° C.

reactant | N,N'-Bis(2-hydroxyethyl)ethylenediamine | 5.3 g | OCCNCCNCCO | C6H16N2O2
reactant | dodecanoyl chloride | 3.0 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | N-[2-(2-hydroxyethyl)aminoethyl]-N-(2-hydroxyethyl) dodecanamide | OCCNCCN(C(CCCCCCCCCCC)=O)CCO | C18H38N2O3
